US06699887B2
A solution of 2.6 g of (1-ethyl-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-phenyl-methanone in 4 ml of phosphorus oxychloride was stirred at 80° C. for 1.5 h. The mixture was poured into 300 ml of saturated sodium hydrogen carbonate and extracted three times with 70 ml of dichloromethane. The combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (bp 40-60° C.) (1:4) for the elution to give 1.74 g of (5-chloro-1-ethyl-3-methyl-1H-pyrazol-4-yl)-phenyl-methanone as a pale yellow liquid. Mass spectrum (ES) m/z 249 [M+H]+, 290 [M+H+CH3CN]+.

reactant | (1-ethyl-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-phenyl-methanone | 2.6 g | C(C)N1N=C(C(=C1O)C(=O)C1=CC=CC=C1)C | C13H14N2O2
reactant | sodium hydrogen carbonate | 300 ml | C(O)([O-])=O.[Na+]
reactant | phosphorus oxychloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (5-chloro-1-ethyl-3-methyl-1H-pyrazol-4-yl)-phenyl-methanone | 1.74 g | ClC1=C(C(=NN1CC)C)C(=O)C1=CC=CC=C1 | C13H13ClN2O
